US04455422
120 Milliliters of γ-chlorobutyryl chloride and 160 g of pulverized anhydrous aluminium chloride were suspended in 300 ml of carbon disulfide. The suspension was refluxed by heating and another suspension of 29.4 g of 3,4-dihydrocarbostyril in 100 ml of carbon disulfide was added dropwise to the first suspension in 1 hour and the reaction was continued for 4 hours under refluxing condition by heating. After the reaction was completed, the reaction mixture was poured into ice-water and the precipitates thus formed were collected by filtration, washed with water and with ether. Then the washed precipitates were recrystallized from acetone to obtain 25.5 g of 6-(4-chloro-1-oxobutyl)-3,4-dihydrocarbostyril in yellow needle-like crystals. Melting point: 158°-160° C.

reactant | γ-chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
reactant | aluminium chloride | 160 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3,4-dihydrocarbostyril | 29.4 g | N1C(=O)CCC2=CC=CC=C12 | C9H9NO
solvent | carbon disulfide | 300 ml | C(=S)=S | CS2
solvent | carbon disulfide | 100 ml | C(=S)=S | CS2
product | 6-(4-chloro-1-oxobutyl)-3,4-dihydrocarbostyril | 25.5 g | ClCCCC(=O)C=1C=C2CCC(NC2=CC1)=O | C13H14ClNO2
